US07737295B2
In a 250-mL flask equipped with a septum inlet, magnetic stirring bar, and connecting tube leading to a mercury bubbler was placed 12 g (0.029 mol) of [2-amino-5-(trifluoromethyl)benzyl][3,5-bis(trifluoromethyl)benzyl]amine in 120 mL DME. To the reaction flask with stirring was added 6.4 mL (0.058 mol) N-methylmorpholine and the mixture was cooled in an ice bath under nitrogen. To this mixture was added dropwise over ten minutes, 2.7 mL (0.035 mol) of methyl chloroformate. Afterwards, the mixture was allowed to stir for 15 minutes and HPLC showed no starting material present. Water was added to the mixture and the contents were diluted with hexane and transferred to a separatory funnel. The layers were separated, then washed with brine, dried over magnesium sulfate, filtered and concentrated to give 13 g crude oil. The oil was chromatographed on a Biotage 40M cartridge with methylene chloride/hexane to give methyl [2-amino-5-(trifluoromethyl)benzyl][3,5-bis(trifluoromethyl)benzyl]carbamate as a yellow oil.

reactant | [2-amino-5-(trifluoromethyl)benzyl][3,5-bis(trifluoromethyl)benzyl]amine | 0.029 mol, 12 g | NC1=C(CNCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C17H13F9N2
reactant | N-methylmorpholine | 0.058 mol, 6.4 mL | CN1CCOCC1 | C5H11NO
reactant | methyl chloroformate | 0.035 mol, 2.7 mL | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
solvent | DME | 120 mL | COCCOC | C4H10O2
solvent | hexane | CCCCCC | C6H14
catalyst | mercury | [Hg] | Hg
product | methyl [2-amino-5-(trifluoromethyl)benzyl][3,5-bis(trifluoromethyl)benzyl]carbamate | NC1=C(CN(C(OC)=O)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C19H15F9N2O2
